Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
New onset blurry vision in right eye
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This patient is a ___ year old right-handed man with history of a
fib on eliquis, CAD s/p stent, sleep apnea, trigeminal neuralgia
who presents with acute onset of right eye blurriness. This
morning at 4AM, when he woke up to take his morning medication,
he noticed that something was "off" with his vision and saw a
flash of light. He thought nothing of it because it was dark at
the time and went back to sleep. When he woke up at 7AM,  he 
paid
more attention to his vision and noticed that he could not see
out of his right eye. He had describes that he sees "magnified
snow" throughout his vision in his right eye which prompted him
to come to the ED. Upon covering his left eye, he had no 
problems
with his left eye. No other visual symptoms. Peripheral vision
intact. Denies similar symptoms in the past. Denies missed
medications. 

In the ED, he states his right eye vision is blurry, but is able
to see light and colors. Did not endorse curtain or darkness
falling in front of his vision. No double vision or eye pain. No
jaw pain or headache. He has never had this before. 
Ophthalmology
saw him and diagnosed him with central retinal artery occlusion
by fundoscopy.

At baseline, walks around with a cane due to "bad knees." He
reports he takes all of his medications. He lives independently
and takes care of all of his ADLs on his own. 

On neuro ROS, the pt denies headache, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech. Denies focal
weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  Denies cough, shortness of breath.  Denies chest pain 
or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
 
Past Medical History:
 Hypertension  
 Trigeminal neuralgia  
 DJD  
 Atrial fibrillation/flutter ___  
 H/o pulmonary embolism ___ s/p 6 month course of Coumadin  
 Bilateral hip replacements ___  
 CAD s/p RCA stent ___ after abnormal stress test  
 S/p bilateral total knee replacements  
 OSA intermittently on cpap  
 H/o narcotic dependence  
 Pulmonary hypertension  
 Hyperlipidemia  

 
Social History:
___
Family History:
 His mother deceased at the age of ___. His father deceased at 
the age of ___ with a history of lung cancer. His sister deceased 
at the age of ___ with a history of lung cancer. There is no 
family history of trigeminal neuralgia.  
 
Physical Exam:
General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Pulmonary: breathing non labored on room air 
 Cardiac: warm and well perfused

Neurologic:
 -Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name days of week backward without difficulty. Language
is fluent with intact repetition and comprehension. Normal
prosody. Able to read without difficulty. Speech was not
dysarthric. Able to follow both midline and appendicular
commands. Patient is able to say "Trump" for the president. 
There
was no evidence of apraxia or neglect.
 
 -Cranial Nerves:
 I: Olfaction not tested.
 II: Bilateral eyes dilated to 8 mm, s/p dilation from
ophthalmology. Visual fields are full throughout. Visual acuity
without glasses is ___ in right eye, and ___ in left eye.
Fundoscopy by opthalmology showed cherry red spot with retinal
whitening
 III, IV, VI: EOMI without nystagmus. Normal saccades.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

 -Motor: Normal bulk, tone throughout. Strength full throughout.
No pronator drift bilaterally. No adventitious movements, such 
as
tremor, noted. 

-Sensory: No deficits to light touch. No extinction to DSS.

-DTRs: ___ throughout, difficult to assess due to body
habit and bilateral knee replacement. Plantar response was 
flexor
bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: Good initiation. Walks with cane in right hand.  Romberg
absent.
 
Pertinent Results:
___ 09:45PM   ALT(SGPT)-26 AST(SGOT)-34 LD(LDH)-267* 
CK(CPK)-206 ALK PHOS-64 TOT BILI-0.3
___ 09:45PM   %HbA1c-5.7 eAG-117
___ 09:45PM   TRIGLYCER-201* HDL CHOL-49 CHOL/HDL-3.7 
LDL(CALC)-91
___ 09:45PM   TSH-5.8*
___ 09:45PM   CRP-1.5

CT/CTA head:
1. No evidence of acute infarction, hemorrhage or intracranial 
mass.
2. Atherosclerotic changes along the cervical vasculature 
resulting in
approximately 65% focal stenosis at the origin of the right 
proximal ICA and 20% focal stenosis at the proximal left ICA by 
NASCET criteria.
3. Mild stenosis at the origin of the great vessels and origin 
of the right
vertebral artery.  Moderate focal stenosis of the left 
paraclinoid ICA.
4. Otherwise patent intracranial and cervical vasculature 
without evidence of dissection, vessel stenosis or aneurysm 
formation greater than 3 mm.

MR brain:
1. Abnormal T2/FLAIR signal intensity in the splenium of the 
corpus callosum without abnormal enhancement, nonspecific but 
may be seen as a sequela of prior seizure.
2. Nonspecific scattered white matter changes in the cerebral 
hemispheres
bilaterally, likely sequela of chronic microangiopathy.
 
Brief Hospital Course:
The patient is a ___ year old morbidly obese right-handed man 
with history of a fib on eliquis, CAD s/p stent, sleep apnea, 
trigeminal neuralgia who presents with acute onset of right eye 
blurriness due to
central retinal artery occlusion. Neurologic exam is notable for 
blurry vision and decreased visual acuity in his right eye. 
Fundoscopy by
ophthalmology showed cherry red spot surrounded by retina
edema/whitening. CT head showed no hemorrhage or large infarct. 
CTA head showed plaque in bilateral ICA. Patient was admitted to 
the stroke service where stroke work up labs were completed and 
he was started on his home medications. He was strongly 
counseled about his weight. Bariatric surgery was discussed and 
patient agreed to meet with a surgeon outpatient for a 
consultation. He has an echo arranged with his outpatient 
cardiologist so no inpatient TTE was conducted.

Transitional Issues:
-continue home medications
- follow up with bariatric surgery outpatient for weight loss
- echo with outpatient cardiologist
- follow up with ophthalmology

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =95 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 80 mg PO DAILY 
2. Rosuvastatin Calcium 40 mg PO QPM 
3. Apixaban 5 mg PO BID 
4. Metoprolol Succinate XL 150 mg PO DAILY 
5. Potassium Chloride 20 mEq PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Verapamil SR 240 mg PO Q24H 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Aspirin 81 mg PO DAILY  
3.  Furosemide 80 mg PO DAILY  
4.  Metoprolol Succinate XL 150 mg PO DAILY  
5.  Potassium Chloride 20 mEq PO DAILY  
6.  Rosuvastatin Calcium 40 mg PO QPM  
7.  Verapamil SR 240 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Central Retinal Artery Occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of right eye visual change 
resulting from an ACUTE ISCHEMIC STROKE in the right retinal 
artery, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 -high cholesterol
 -Atrial fibrillation
 - obesity

We are very concerned about your weight and would like you to 
lose weight as soon as possible. You may be a candidate for 
bariatric surgery and think you would benefit from a 
consultation with our bariatric surgeons outpatient. You need to 
lose weight in order to prevent future strokes. 

We are changing your medications as follows:  
 -no changes at this time but would like you to continue your 
current medications

Please take your other medications as prescribed. 
 
Please follow up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___